US04720490
(3RS,4RS)-3-(1-fluoro-1-methylethyl)-2-oxoazetidine-4-yl-acetic acid benzylester
To a -78° cold solution of 3 ml of diethylaminosulphurtrifluoride and 1.7 g of potassium fluoride in 80 ml of dichloromethane is added a solution of 3.2 g of (3SR,4RS)-3-(1-hydroxy-1-methyethyl)-2-oxoazetidine-4-yl acetic acid benzylester in 170 ml of dichloromethane. This mixture is stirred for 15 minutes at -78° and then mixed with water. After addition of further dichloromethane the phases are separated and the organic phase washed with saturated NaCl, dried over MgSO4 and evaporated to dryness. Chromatography of the residue over silica gel (ethylacetate/cyclohexane=1/1) yields the title compound m.p. 112°-116°.

reactant | diethylaminosulphurtrifluoride | 3 ml | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | potassium fluoride | 1.7 g | [F-].[K+]
reactant | (3SR,4RS)-3-(1-hydroxy-1-methyethyl)-2-oxoazetidine-4-yl acetic acid benzylester | 3.2 g | C(C1=CC=CC=C1)OC(CC1C(C(N1)=O)C(C)(C)O)=O | C15H19NO4
reactant | water | O | H2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | (3RS,4RS)-3-(1-fluoro-1-methylethyl)-2-oxoazetidine-4-yl-acetic acid benzylester | C(C1=CC=CC=C1)OC(CC1C(C(N1)=O)C(C)(C)F)=O | C15H18FNO3
